US08022062B2
5-(2,2,2-Trifluoro-1,1-dimethyl-ethoxy)-pyridine-2-carbonitrile:
Add 2-trifluoromethyl-2-propanol (1.1 g, 8.3 mmol) slowly to a slurry of sodium hydride (202 mg, 60% mineral oil, washed with hexane) in HMPA (3 mL) under nitrogen. Stir the slurry for 15 min, then add 5-fluoro-pyridine-2-carbonitrile (510 mg, 4.2 mmol). Stir the slurry for 16 h at ambient temperature. Adjust the mixture to pH 9 with sodium carbonate then extract with diethyl ether (3×50 mL). Collect the organic layer, dry over Na2SO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (95/5 to 80/20) to obtain the desired intermediate (768 mg, 79%). GC-MS m/z: 230 (Me).

reactant | 2-trifluoromethyl-2-propanol | 8.3 mmol, 1.1 g | FC(C(C)(C)O)(F)F | C4H7F3O
reactant | sodium hydride | 202 mg | [H-].[Na+]
reactant | 5-fluoro-pyridine-2-carbonitrile | 4.2 mmol, 510 mg | FC=1C=CC(=NC1)C#N | C6H3FN2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | HMPA | 3 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 5-(2,2,2-Trifluoro-1,1-dimethyl-ethoxy)-pyridine-2-carbonitrile | 768 mg, 79% | FC(C(OC=1C=CC(=NC1)C#N)(C)C)(F)F | C10H9F3N2O
